US07022851B2
4-{[6-N-(Benzhydryloxycarbonyl)-adenin-1-yl]acetyl}-1-(2-nitro-benzenesulfonyl)-piperazin-2-one
To a solution of 1-(2-nitro-benzenesulfonyl)-piperazin-2-one HCl salt (0.76 g, 2.36 mmol), [6-N-(benzhydryloxycarbonyl)-adenin-9-yl]-acetic acid (1.0 g, 2.47 mmol), and PyBOP (1.35 g) in DMF (20 mL) was added N,N-diisopropylethylamine (0.95 mL) at 5° C. After stirring for additional 2 h, the reaction mixture was diluted with ethyl acetate (200 mL) and water (150 mL). The organic layer was separated and washed with water, 5% aqueous sodium bicarbonate, 10% aqueous citric acid, and brine. The organic layer was dried over sodium sulfate and concentrated in reduced pressure. The residue was purified by column chromatography to give the title compound (830 mg, 58%). 1H NMR (DMSO-d6) δ 10.95 (s, 1H), 8.59 (s, 0.6H), 8.58 (s, 0.4H), 8.40˜8.36 (m, 1H), 8.33 (s, 0.6H), 8.31 (s, 0.4H), 8.14 (d, 1H), 8.06˜7.96 (m, 2H), 7.54˜7.27 (m, 10H), 6.82 (s, 1H), 5.39 (s, 1.2H), 5.30 (s, 0.8H), 4.56 (s, 0.8H), 4.27 (s, 1.2H), 4.12˜4.08 (m, 2.4H), 3.92˜3.86 (m, 1.6H).

reactant | 1-(2-nitro-benzenesulfonyl)-piperazin-2-one HCl salt | 2.36 mmol, 0.76 g | Cl.[N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)N1C(CNCC1)=O
reactant | [6-N-(benzhydryloxycarbonyl)-adenin-9-yl]-acetic acid | 2.47 mmol, 1.0 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)NC1=C2N=CN(C2=NC=N1)CC(=O)O | C21H17N5O4
reactant | PyBOP | 1.35 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 0.95 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 150 mL | O | H2O
product | 4-{[6-N-(Benzhydryloxycarbonyl)-adenin-1-yl]acetyl}-1-(2-nitro-benzenesulfonyl)-piperazin-2-one | 830 mg, 58% | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)NC1=C2N=CN=C2N=CN1CC(=O)N1CC(N(CC1)S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])=O | C31H26N8O8S
